US09145391B2
To a flask containing 4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)piperidin-4-ol (35 mg, 0.0.082 mmol), EDC (31 mg, 0.0.163 mmol), HOBt (25 mg, 0.163 mmol) and DIEA (0.071 mL, 0.408 mmol) in DMF (1.63 mL) was added 7-quinoline carboxylic acid (42 mg, 0.245 mmol). The solution was stirred at room temperature for 16 hours. The reaction solution was then filtered and purified by mass triggered reverse phase high pressure liquid chromatography to provide 4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)-1-(1H-pyrrolo[2,3-b]pyridin-6-ylcarbonyl)piperidin-4-ol as a white solid. MS ESI calcd. for C30H26F3N7O2 [M+H]+ 574. found 574. 1H NMR (600 MHz, DMSO-d6) δ 11.79 (s, 1H), 10.22 (s, 1H), 9.15 (s, 1H), 8.53 (s, 1H), 8.48 (d, J=5.2 Hz, 1H), 8.45-8.37 (m, 1H), 8.03 (d, J=8.0 Hz, 1H), 7.83-7.79 (m, 1H), 7.54 (s, 1H), 7.47 (s, 1H), 7.31 (s, 1H), 7.25 (d, J=8.0 Hz, 1H), 7.31-7.27 (m, 1H), 6.48 (s, 1H), 4.54-4.43 (m, 2H), 3.30-3.20 (m, 2H), 2.34 (s, 3H), 2.24-2.10 (m, 2H), 1.75-1.68 (m, 1H), 1.60-1.46 (m, 1H). rhSyk IC50=9 nM.

reactant | 4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)piperidin-4-ol | 35 mg | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)C1(CCNCC1)O | C22H22F3N5O
reactant | HOBt | 0.163 mmol, 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.408 mmol, 0.071 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 7-quinoline carboxylic acid | 0.245 mmol, 42 mg | N1=CC=CC2=CC=C(C=C12)C(=O)O | C10H7NO2
solvent | DMF | 1.63 mL | CN(C)C=O | C3H7NO
solvent | EDC | 31 mg
product | 4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)-1-(1H-pyrrolo[2,3-b]pyridin-6-ylcarbonyl)piperidin-4-ol | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)C1(CCN(CC1)C(=O)C1=CC=C2C(=N1)NC=C2)O | C30H26F3N7O2
